US04652304
2-(1-Azetidinylsulfonyl)benzenesulfonyl fluoride
In a flask was placed 9.24 g of 2-fluorosulfonylbenzenesulfonyl chloride and 200 ml of dry acetonitrile. The resultant solution was cooled to 0° C. An addition funnel was charged with 2 g of azetidine, 4.95 ml of triethylamine and 50 ml of acetonitrile. This solution was added dropwise to the first solution. After stirring overnight the solvent was evaporated under reduced pressure. The residue was partitioned between dichloromethane and 1N hydrochloric acid. The organic layer was separated, dried and concentrated to give 9.80 g of a solid, m.p. 93° C.

reactant | 2-fluorosulfonylbenzenesulfonyl chloride | 9.24 g | FS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClFO4S2
reactant | azetidine | 2 g | N1CCC1 | C3H7N
reactant | triethylamine | 4.95 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 2-(1-Azetidinylsulfonyl)benzenesulfonyl fluoride | 9.80 g | N1(CCC1)S(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)F | C9H10FNO4S2
